US06004977
3,4-Dihydro-1H-isoquinolin-2-carboxylicacid-7-methoxy-2-(4-pyridinylamino)-2,3,4,5-t etrahydro-1H-benzo[c]azepin-8-yl ester hydrochloride
To a solution of [7-methoxy-8-hydroxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-pyridin-4-yl amine hydrochloride (500 mg) in chloroform (10 mL) was added 1,2,3,4-tetrahydroisoquinoline-2-yl carbonyl chloride (362 mg) followed by triethylamine (0.75 mL). The reaction mixture was heated under reflux for 3 hrs, cooled to ambient temperature, diluted with dichloromethane (200 mL), and the mixture was washed with saturated sodium bicarbonate solution. The organic phase was separated, dried under anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was flash chromatographed over silica gel, eluting with chloroform:methanol (9:1). The appropriate fractions were collected and evaporated. The residue was dissolved in methanol and conc hydrochloric acid was added. The precipitate was collected and crystallized from ethyl acetate-petroleum ether to give 230 mg of product, mp >100° C. (dec).

reactant | [7-methoxy-8-hydroxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-pyridin-4-yl amine hydrochloride | 500 mg | Cl.COC1=CC2=C(CN(CCC2)NC2=CC=NC=C2)C=C1O
reactant | 1,2,3,4-tetrahydroisoquinoline-2-yl carbonyl chloride | 362 mg | C1N(CCC2=CC=CC=C12)C(=O)Cl | C10H10ClNO
reactant | triethylamine | 0.75 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3,4-Dihydro-1H-isoquinolin-2-carboxylicacid-7-methoxy-2-(4-pyridinylamino)-2,3,4,5-t etrahydro-1H-benzo[c]azepin-8-yl ester hydrochloride | 230 mg | Cl.COC1=CC2=C(CN(CCC2)NC2=CC=NC=C2)C=C1OC(=O)N1CC2=CC=CC=C2CC1 | InChI=1S/C26H28N4O3.ClH/c1-32-24-15-20-7-4-13-30(28-23-8-11-27-12-9-23)18-22(20)16-25(24)33-26(31)29-14-10-19-5-2-3-6-21(19)17-29;/h2-3,5-6,8-9,11-12,15-16H,4,7,10,13-14,17-18H2,1H3,(H,27,28);1H
